US07071175B1
A solution of (5-bromo-6-methyl-pyridin-2-yl)-carbamic acid tert-butyl ester (27.5 g, 95.8 mmol), tert-butyl-dimethyl-tributylstannanylmethoxy-silane (43.5 g, 100.2 mmol), and bis(triphenylphosphine)palladium(II) dichloride (1.00 g, 1.40 mmol) in 1,2-dichloroethane (350 mL) was stirred at reflux for 48 h. Additional bis(triphenylphosphine)palladium(II) dichloride (1.00 g, 1.40 mmol) was added every 12 h. The mixture was cooled to 0° C. and diethyl ether (300 mL) was added followed by saturated aqueous potassium fluoride (100 mL). The mixture was stirred vigourously for 60 min and filtered. The organic phase was washed with water, dried and concentrated under reduced pressure. Flash chromatography (MeOH/CH2Cl2, 1:99) gave [5-(tert-butyl-dimethyl-silanyloxymethyl)-6-methyl-pyridin-2-yl]-carbamic acid tert-butyl ester (15 g, 47%).

reactant | (5-bromo-6-methyl-pyridin-2-yl)-carbamic acid tert-butyl ester | 95.8 mmol, 27.5 g | C(C)(C)(C)OC(NC1=NC(=C(C=C1)Br)C)=O | C11H15BrN2O2
reactant | tert-butyl-dimethyl-tributylstannanylmethoxy-silane | 100.2 mmol, 43.5 g | C(C)(C)(C)[Si](OC[Sn](CCCC)(CCCC)CCCC)(C)C
reactant | diethyl ether | 300 mL | C(C)OCC | C4H10O
reactant | potassium fluoride | 100 mL | [F-].[K+]
reactant | 1,2-dichloroethane | 350 mL | ClCCCl | C2H4Cl2
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 1.40 mmol, 1.00 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 1.40 mmol, 1.00 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | [5-(tert-butyl-dimethyl-silanyloxymethyl)-6-methyl-pyridin-2-yl]-carbamic acid tert-butyl ester | 15 g, 47% | C(C)(C)(C)OC(NC1=NC(=C(C=C1)C(O[SiH2]C(C)(C)C)(C)C)C)=O | C18H32N2O3Si
